US08183398B2
Preparation of 6-methyl-4-oxo-4H-pyran-3-yl propanoate:
Allomaltol (600 mg; 4.76 mmol) was weighed out into a round bottom flask (100 ml) containing a stir-bar. The contents were diluted with anhydrous THF (˜20 ml) and stirred (˜5 min) to afford a solution. Next, trimethyl amine (833 μl; 6.33 mmol; 1.33 equiv.) was added drop-wise and the contents stirred (˜5 min). Propionic anhydride (473 μl; 5.00 mmol) was then added drop-wise, capped and stirred at room temperature. The reaction was monitored via silica gel TLC. Once complete, the reaction mixture was concentrated under reduced pressure and the contents purified by silica gel chromatography to afford (680 mg product; 3.73 mmol; 78% yield). This compound was found to have an EC50 of 620 μM. 1H NMR (DMSO-d6) δ 8.39 (s, 1H; 2-H); 6.36 (s, 1H; 5-H); 2.59-2.55 (q, 2H; —CH2—); 2.29 (s, 3H; 6-CH3); 1.13-1.08 (t, 3H; —CH3).

reactant | Allomaltol | 4.76 mmol, 600 mg | CC1=CC(=O)C(=CO1)O | C6H6O3
reactant | trimethyl amine | 6.33 mmol, 833 μl, 1.33 equiv. | CN(C)C | C3H9N
reactant | Propionic anhydride | 5.00 mmol, 473 μl | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | THF | ˜20 ml | C1CCOC1 | C4H8O
product | 6-methyl-4-oxo-4H-pyran-3-yl propanoate | 680 mg, 78% yield | C(CC)(=O)OC1=COC(=CC1=O)C | C9H10O4
